*Title: T3 Circuit

*  Netlist

.options savecurrents
 
*The circuit components are defined below


.MODEL mydiode D 

.MODEL mydiode2 D




.subckt CI n1 n2 n3 n4 L=10u N=10u

L1 n1 n2  {L} 

L2 n3 n4  {N}

K1 L1 L2 1

.ends CI  

Vin n1 n2  0.0 ac 1.0 sin(0 230 50)

*Vin n3 n4  0.0 ac 1.0 sin(0 13 50)

D1 n3 n6  mydiode

D2 n4 n6  mydiode

D3 0 n3  mydiode

D4 0 n4  mydiode

D5 n7 n8  mydiode2

D6 n8 n9  mydiode2

D7 n9 n0  mydiode2

R1 n6 0  10k

R2 n6 n7  10k

C1 n6 0  1u

.control

tran 1e-5 0.2

hardcopy trans1.ps v(n6)
echo trans1_FIG

hardcopy trans2.ps v(n7)
echo trans2_FIG

hardcopy trans3.ps v(n7)-12
echo trans3_FIG


quit
.endc
.end

