*Title: T3 Circuit

*Netlist

.options savecurrents
 
*The circuit components are defined below

*This is the model used in the envelope circuit, we still have to find a way of making von=0
.MODEL mydiode D 

*This is the model used in the regulator circuit, we still have to find a way of making von=4
.MODEL mydiode2 D


*The following line is only for testing purposes, upon the delivery of the lab it shall BE DELETED
*Vin n3 n4  0.0 ac 1.0 sin(0 13 50)

*In these following two lines, we have the first circuit where the AC source is located

Vin n1 0  0.0 ac 1.0 sin(0 230 50)

F1 n1 0 Vaux 0.0590

*In these following lines, we have the second circuit where the voltage amplitude is lowered and it is converted to DC

E1 n3 naux2 n1 0 0.0590

Vaux n4 naux2 0

D1 n3 n6  mydiode

D2 n4 n6  mydiode

D3 0 n3  mydiode

D4 0 n4  mydiode

D5 n7 n8  mydiode2

D6 n8 n9  mydiode2

D7 n9 0  mydiode2

D8 0 n10  mydiode2

D9 n10 n11  mydiode2

D10 n11 n7  mydiode2

R1 n6 0  10k

R2 n6 n7  10k

C1 n6 0  100u

.control

tran 1e-5 0.2

hardcopy trans1.ps v(n6)
echo trans1_FIG

hardcopy trans2.ps v(n7)
echo trans2_FIG

hardcopy trans3.ps v(n7)-12
echo trans3_FIG


quit
.endc
.end

